US07153850B2
2,4-Dihydroxybenzaldehyde (3.00 g, 21.7 mmol) and hexyl bromide (7.62 ml, 54.3 mmol) were stirred in the presence of lithium carbonate (4.00 g, 54.3 mmol) in dimethylformamide (5 ml) at 55° C. overnight. After the neutralization with hydrochloric acid followed by the extraction with ethyl acetate, the product was purified by the silica gel column chromatography to obtain 4-hexyloxy-2-hydroxybenzaldehyde (yield: 1.77 g, 37%) in the form of a colorless oil.

reactant | 2,4-Dihydroxybenzaldehyde | 21.7 mmol, 3.00 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | hexyl bromide | 54.3 mmol, 7.62 ml | C(CCCCC)Br | C6H13Br
reactant | lithium carbonate | 54.3 mmol, 4.00 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-hexyloxy-2-hydroxybenzaldehyde | yield: 1.77 g, 37% | C(CCCCC)OC1=CC(=C(C=O)C=C1)O | C13H18O3
